US07935722B2
(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-hydrazine hydrochloride salt
Add slowly a solution of sodium nitrite (1.40 g, 20.3 mmol) in water (11 mL) to a flask containing 2,2-difluoro-benzo[1,3]dioxol-5-ylamine (3.41 g, 19.7 mmol), water (14 mL), and concentrated hydrochloric acid (5 mL) at −5° C. Cool the reaction to −10° C. then add tin(II) chloride (11.20 g, 49.6 mmol) in concentrated hydrochloric acid (9 mL). Stir the reaction for one hour and collect the resultant solid by filtration. Dissolve the solid in methylene chloride (20 mL) and treat with acetone (5 mL). Wash the resultant organic solution with water (50 mL), dry over magnesium sulfate, filter, and evaporate under reduced pressure. Stir the resultant oil with 2N hydrochloric acid (100 mL) for 12 h. Collect a solid by filtration, wash with water and dry in a vacuum oven at 40° C. overnight to give the subtitled compound (1.14 g, 26%) as a red powder. 1H NMR (300 MHz, DMSO-d6): δ 10.32 (br s, 3H), 8.45 (br s, 1H), 7.34 (d, J=8.7 Hz, 1H), 7.11 (d, J=2.3 Hz, 1H), 6.79 (dd, J=8.7, 2.3 Hz, 1H).

reactant | sodium nitrite | 20.3 mmol, 1.40 g | N(=O)[O-].[Na+]
reactant | 2,2-difluoro-benzo[1,3]dioxol-5-ylamine | 19.7 mmol, 3.41 g | FC1(OC2=C(O1)C=CC(=C2)N)F | C7H5F2NO2
reactant | tin(II) chloride | 49.6 mmol, 11.20 g | [Sn](Cl)Cl
solvent | water | 11 mL | O | H2O
solvent | hydrochloric acid | 9 mL | Cl | ClH
solvent | hydrochloric acid | 5 mL | Cl | ClH
solvent | water | 14 mL | O | H2O
product | (2,2-Difluoro-benzo[1,3]dioxol-5-yl)-hydrazine hydrochloride salt | 1.14 g, 26% | Cl.FC1(OC2=C(O1)C=CC(=C2)NN)F | InChI=1S/C7H6F2N2O2.ClH/c8-7(9)12-5-2-1-4(11-10)3-6(5)13-7;/h1-3,11H,10H2;1H
